US07713979B2
1-[cis-4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-isopropoxy-benzyl)-pyrrolidin-2-one
Add 1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one (Preparation 72) (0.543 g, 1.15 mmol), 2-bromopropane (0.212 g, 1.72 mmol), and potassium carbonate (0.365 g, 2.64 mmol) together with acetone (10 mL) and reflux overnight. Concentrate the reaction mixture under reduced pressure to give a residue. Purify the residue over silica gel, (98:2 dichloromethane in methanol) to give 0.080 g (14%) of the title compound: mass spectrum m/z: 516(M+1).

reactant | 1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | 1.15 mmol, 0.543 g | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O)(C)C | C23H35Cl2NO3Si
reactant | 2-bromopropane | 1.72 mmol, 0.212 g | BrC(C)C | C3H7Br
reactant | potassium carbonate | 2.64 mmol, 0.365 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-[cis-4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-isopropoxy-benzyl)-pyrrolidin-2-one | 0.080 g, 14% | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)OC(C)C)Cl)=O)(C)C | C26H41Cl2NO3Si
